US04598079
3-(2-thienyl)-4-dimethylaminosulphonylpiperazin-2-one
9.1 g (0.05 mol) of 3-(2-thienyl)-piperazin-2-one, prepared in accordance with Example 16, are mixed with a solution of 6.1 g (0.06 mol) of triethylamine in 100 ml of chloroform, and 8.6 g (0.06 mol) of dimethylaminosulphonyl chloride are added dropwise slowly. The reaction mixture is then stirred for a further 6 hours at room temperature and evaporated in vacuo, the residue is stirred with water and the mixture is extracted by shaking with ethyl acetate. The ethyl acetate phase is separated off, the ethyl acetate is removed by distillation and the residue is recrystallised from ethanol.

reactant | 3-(2-thienyl)-piperazin-2-one | 0.05 mol, 9.1 g | S1C(=CC=C1)C1C(NCCN1)=O | C8H10N2OS
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminosulphonyl chloride | 0.06 mol, 8.6 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-thienyl)-4-dimethylaminosulphonylpiperazin-2-one | S1C(=CC=C1)C1C(NCCN1S(=O)(=O)N(C)C)=O | C10H15N3O3S2
